US05534535
(±)-(1R*, 2R*, 4S*)-2-(2-Cyclopropylamino-5,6-dichloro-1H-benzimidazol-1-yl)-4-(hydroxymethyl)cyclopentanol
(±)-(1R*, 2R*, 4S*)-4-(Acetoxymethyl)-2-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-cyclopentyl acetate (500 mg, 1.50 mmol) was reacted with cyclopropylamine (0.73 mL) in the manner of Example 74. Crude product was chromatographed on silica gel and title compound eluted with 5% methanol-ethyl acetate as a colorless glass which solidified from ethyl acetate-hexanes to white powder (180 mg, 48%), m.p. 251°-253° C.; 1H-NMR(DMSO-d6)δ: 7.54 and 7.45 (both s, 2, aromatic CH), 5.04 (d, J=5.1 Hz, 1, OH), 4.97 (t, J=4.7 Hz, 1, OH), 4.60-4.50 and 4.50-4.30 (both m, 1 each, NCH and OCH), 3.50 (m, 2, OCH2), 2.80 (m, 1, CH), 2.35-2.10 (m, 1, CH), 2.05-1.80 (m, 3, CH2 and CH of cyclopentane), 1.80-1.60 (m, 1, CH), 0.80-0.50 (1 m, 4, 2CH2 of cyclopropyl); mass spectrum (CI): 356 (M+1).

reactant | 4-(Acetoxymethyl)-2-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-cyclopentyl acetate | 1.50 mmol, 500 mg | C(C)(=O)OC1C(CC(C1)COC(C)=O)N1C(=NC2=C1C=C(C(=C2)Cl)Cl)Br | C17H17BrCl2N2O4
reactant | cyclopropylamine | 0.73 mL | C1(CC1)N | C3H7N
product | 2-(2-Cyclopropylamino-5,6-dichloro-1H-benzimidazol-1-yl)-4-(hydroxymethyl)cyclopentanol | C1(CC1)NC1=NC2=C(N1C1C(CC(C1)CO)O)C=C(C(=C2)Cl)Cl | C16H19Cl2N3O2
